US06051712
In an analogous manner to that described in Example 22 (l), from tert-butyl (3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-[2-(3,4-diamino-phenoxy)-ethoxy]-piperidine-1-carboxylate by cleavage of the BOC protecting group with hydrogen chloride in methanol there was obtained 4-[2-[(3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-piperidin-3-yloxy]-ethoxy]-benzene-1,2-diamine hydrochloride (1:3) as pale violet crystals; MS: 492 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-[2-(3,4-diamino-phenoxy)-ethoxy]-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCCOC1=CC(=C(C=C1)N)N | C34H45N3O6
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-[2-[(3RS,4RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-piperidin-3-yloxy]-ethoxy]-benzene-1,2-diamine hydrochloride | Cl.C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CNCC1)OCCOC=1C=C(C(=CC1)N)N | InChI=1S/C29H37N3O4.ClH/c30-27-12-11-25(19-28(27)31)35-17-18-36-29-20-32-14-13-26(29)23-7-9-24(10-8-23)34-16-4-15-33-21-22-5-2-1-3-6-22;/h1-3,5-12,19,26,29,32H,4,13-18,20-21,30-31H2;1H
